US05840732
ii) Synthesis of 5-(2-pyridyl)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 1.483 g (3.61 mmol) of 5-(2-pyridyl)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione in 30 ml of methanol, 0.42 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was crystallized from dichloromethane-diethyl ether to yield 1.61 g (99.8%, white crystal) of the desired product.

reactant | 5-(2-pyridyl)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 3.61 mmol, 1.483 g | N1=C(C=CC=C1)C=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C20H18N4O2S2
reactant | hydrochloric acid | 0.42 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 5-(2-pyridyl)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.N1=C(C=CC=C1)C=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C20H18N4O2S2.ClH/c25-19-16(14-15-6-1-2-9-21-15)28-20(26)24(19)11-3-4-13-27-18-8-5-7-17-22-10-12-23(17)18;/h1-2,5-10,12,14H,3-4,11,13H2;1H
